Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Demerol / Shellfish
 
Attending: ___.
 
Chief Complaint:
Lower extremity weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ right-handed man with history of 
of non-small cell lung cancer who p/w complaints of lower 
extremity weakness and falls. The patient was initially 
diagnoses in ___ with non-small cell lung cancer and has 
metastates to the brain. His brain metastases were most recent 
stable on brain MRI without progressive disease. He also is s/p 
prophylactic VP shunt placement in ___ and whole brain 
radiation also in ___ and recently has been tapered off 
decadron (0.5 mg daily).

Over the last several days the patient noted progressive 
weakness in his lower extremities. He has fallen three times in 
the last 24 hours and has been unable to get up without 
assistance. With one of the falls today, he hit his posterior 
head. He denies any LOC, dizziness, palpitations or HA. He also 
denies change in symptoms since his fall and denies any back 
pain, bladder or bowel incontinence or any change in sensation. 
He reports vision changes that have been ongoing for three 
months. He reports blurry vision but denies any double vision. 
He denies any tremor or any problems with his coordination. He 
reports that he was walking at baseline as of last ___. He 
recalls that in the past he has grown increasingly weak with any 
attempt to taper his steroids.

ED course: Vital signs ___ temperature 98.1 F, pulse 102, 
blood pressure 115/64, repiratory rate at 18, and oxygen 
saturation at 97% in room air. Subsequent blood pressure was 
recorded as 92/38. Patient underwent head CT which showed no 
change in mets compared to prior. He did not receive any 
medications. Dr. ___ was contact and denied the need for an 
urgent neurosurgery evaluation but asked for admission to the 
floor for further evaluation.

ROS: It is negative for SOB, abdominal pain, diarrhea, 
constipation, f/c/ns, weight loss, dysuria, changes in the color 
of the urine or stool. He reports CP intermittently in his R 
side that comes and goes usually at rest and lasts between 15 
minutes to 5 hours. It is not associated with other symptoms.
 
Past Medical History:
1. Non-insulin dependent diabetes
2. Hypercholesterolemia
3. S/p cervical discectomy

Past Surgical History: 
Disk fusion at C6-7 level
Repair of carpal tunnel syndrome in left wrist
Appendectomy

Oncological History:
His oncological and neurological problems began in early ___ when he developed a cough with white sputum production, 
left sided headache, and gait unsteadiness for 10 days.  He saw 
his primary care physician who arranged for a chest X-ray that 
showed an upper lobe mass in his right lung. He later had a 
chest CT and a head CT that showed multiple enhancing lesions in 
the brain. He saw ___, M.D., an oncologist at ___ 
___, who arranged him to undergo whole 
brain cranial irradiation with ___, M.D., Ph.D. at 
___. He had whole brain cranial 
irradiation from ___ through ___. He later underwent 
a brain biopsy by ___, M.D., Ph.D. of the left 
occipital cystic enhancing mass. The pathology is consistent 
with metastatic carcinoma. He had generalized tonic-clonic 
seizure (with his eyes rolled back and had jerking of his 
extremities) on ___. He also had a VP shunt placed by Dr. 
___ on ___ for a metastsis at the top of the ramus 
compressing his CSF space, and the associated risk for 
herniation. His dexamethasone was lowered since then but was 
unable to be weaned off.

Treatment History:  He is status post four cycles of Taxol and 
carboplatin. He has completed eight cycles of Alimta. His last 
dose of Alimta was in ___. He is planned to undergo 
radiation therapy to his right lung lesion. Further systemic 
therapy is currently on hold.
 
Social History:
___
Family History:
His mother died at age ___ from colon cancer; she also had breast 
cancer, bladder cancer, osteoporosis, and COPD. His father died 
at age ___ from lung cancer and congestive heart failure. His 
sister, age ___, is healthy.
 
Physical Exam:
Vital Signs: Temperature is 96.7 F, blood pressure 102/64, heart 
rate 86, respiratory rate 20, and oxygen saturation at 100% in 
room air.
GENERAL: NAD, AAOx3
SKIN: warm extremities, no rash, mild abrasions on legs
HEENT: NC/AT, PERRLA, mmm, shunt in place
NECK: no LAD, no JVD, no carotid bruit
CARDIOVASCULAR: S1, S2, regular rhythm, no ___ systolic murmur 
over RUSB without radiation
PULMONARY: CTA bilaterally, no wheezing or rhonchi
ABDOMEN: Positive for bowel sounds, soft, non-distended, and 
non-tender 
EXTREMITIES: 2+ DP, no edema/c/c, no CVA tenderness

NEUROLOGICAL EXAMINATION: His ___ Performance Score was 
70. He was awake, alert, and follows commands. His language was 
fluent with good comprehension. His short-term memory was 
intact. Cranial Nerve Examination: His pupils were equal and 
reactive to light, 4 mm to 2 mm bilaterally. Extraocular 
movements were full; there was no nystagmus. Visual fields were 
full to confrontation. 
Funduscopic examination revealed sharp disks margins 
bilaterally. His face was symmetric. Facial sensation was intact 
bilaterally. His hearing was intact bilaterally. His tongue was 
midline. Palate went up in the midline. Sternocleidomastoids and 
upper trapezius were strong. Motor Examination: He did not have 
a drift. His muscle strengths were ___ at all muscle groups, 
except
for 4+/5 strength in the proximal lower extremities. His muscle
tone was normal. His reflexes were 3+ diffusely at all 4 
extremities bilaterally. His ankle jerks were 2+.  His toes were 
down going. Sensory examination was intact to touch and 
proprioception. Coordination examination did not reveal 
appendicular dysmetria. His gait was wide-based and he had a
Romberg.
 
Pertinent Results:
___ 06:10PM   WBC-7.6 RBC-4.21* HGB-13.1* HCT-36.0* MCV-86 
MCH-31.1 MCHC-36.3* RDW-13.4

___ 06:10PM   NEUTS-83.4* LYMPHS-10.1* MONOS-5.8 EOS-0.5 
BASOS-0.3

___ 06:10PM   GLUCOSE-156* UREA N-14 CREAT-0.6 SODIUM-137 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-27 ANION GAP-14

___ 06:10PM   CALCIUM-9.3 PHOSPHATE-3.6 MAGNESIUM-2.2

MR ___ W/O CONTRAST  ___ 10:49 AM
1. No evidence of signal abnormality or enhancing lesion within 
the cervical spinal cord to explain the patient's symptoms.
2. Mild cervical spondylosis as described above.
3. Abnormality in the visualized occipital lobe is better 
evaluated on the prior head imaging studies.

MR ___ SPINE W/O CONTRAST; MR THORACIC SPINE W/O CONTRAST
No evidence of bony metastasis in the lumbar region. No thecal 
sac compression seen. Mild degenerative changes. No evidence of 
cord compression or evidence of bony metastasis. 

CT HEAD W/O CONTRAST  ___ 6:28 ___
No new intracranial hemorrhage. Allowing for differences in 
modality similar appearing right frontal and left cerebellar 
hemorrhagic metastases. Left frontal and occipital hypodensities 
corresponding to sites of metastases on recent MRI ___.
 
Brief Hospital Course:
This is a ___ right-handed man with NSCLCA and brain 
metastases who presents with worsening lower extremity weakness.

(1) Subjective Weakness: Objective weakness could not be 
confirmed on examination. The patient's difficulty to ambulate 
is more likely due to increased muscle tone and stiffness. There 
is no focal neurological abnormality. The patient denied any HA 
and had no signs of increased intracranial pressure suggesting 
VP shunt malfunctioning. Most likely etiology initially thought 
to be progression of disease versus new intraspinal masses for 
example affecting the spinocerebellar tract however there is no 
focal findings of exam and CT head and recently MRI of the head 
showed stable disease. Also could consider paraneoplastic 
syndromes. Spinal MRI, lumber, thoracic and cervical, without 
lesion to explain examination findings. He was discharged with 
continued ___ at home. He was also discharged with dexamethasone 
at current dose and Dilantin.

(2) NSCLA: Progressive. Being evaluated for Radiation therapy to 
right lung mass.
Deferred further management to Dr. ___ Dr. ___.

(3) Type II Diabetes: Per patient eats regular diet with an 
agressive insulin regimen. Continued this while inpatient per 
patient request.  Discharged home on prior regimen of Lantus and 
Humalog sliding scale.

(4) Hypertension: Patient taking Lisinopril 10mg at home. Blood 
pressure here 90-100 systolic. Thus, his Lisinopril was 
decreased to 5 mg daily but was kept at low dose for renal 
protection given diabetes.

(5) Chronic Pain: Continued narcotics and gabapentin.

(6) Hyperlipidemia:  Continued Atorvastatin.

(7) Right Shoulder Pain: Per patient, is chronic for several 
months. He cannot use his shoulder at baseline. Unclear if 
frozen shoulder vs torn rotator cuff but is followed by outside 
Orthopedist for this issue.  Have deferred further treatment to 
this physician on an as needed basis.
 
Medications on Admission:
CENTRUM 1 tbl Qdaily
COMPAZINE 10 mg every 8 hours prn
DILANTIN 100 mg 2 tabs po q a.m. and 3 tabs po q p.m.
DULCOLAX 5 mg daily
LANTUS 28U QHS
LIDODERM 5 % (700 mg/patch) as needed for pain
LIPITOR 20 mg daily
LISINOPRIL 10 mg daily
LORAZEPAM 1 mg ___ tablet every 6 hours as needed for nausea, 
insomnia
MUCINEX ___ mg twice a day
NASONEX ___ mcg daily
NEURONTIN 300 mg BID
NOVOLOG H sliding scale 
PERCOCET 5 mg-325 mg 2tbl every 6 hours prn pain
PROTONIX 40 mg daily
RITALIN 10 mg BID
DEXAMETHASONE 0.5 mg--1 tablet(s) by mouth in a.m.
Oxycodone SR 20 mg BID
 
Discharge Medications:
1. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical QDAILY ().  
6. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Lorazepam 1 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for nausea.  
9. Mucinex ___ mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO twice a day.  
10. Nasonex ___ mcg/Actuation Spray, Non-Aerosol Sig: One (1) 
spray Nasal once a day.  
11. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
12. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO QAM.  
13. Phenytoin Sodium Extended 100 mg Capsule Sig: Three (3) 
Capsule PO QPM.  
14. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
15. Methylphenidate 10 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
16. Dexamethasone 0.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. OxyContin 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO twice a day.  
18. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed.  
19. Novolog  Subcutaneous
20. Lantus  Subcutaneous
21. Percocet ___ mg Tablet Sig: Two (2) Tablet PO every six 
(6) hours as needed for pain.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: ___

 
Discharge Condition:
Hemodynamically stable and afebrile.
 
Discharge Instructions:
You were admitted after a fall with concern for new gait 
abnormalities.  You were evaluated with imaging and had your 
pain controlled.  You are now being discharged with home ___ for 
continued therapy.

Please continue taking all medications as prescribed.  Your 
Lisinopril has been decreased by 50% while you were in the 
hospital.  You should now be taking 5mg daily instead of 10mg.   


Please keep all outpatient appiontments.

Return to the hospital or seek medical care if you notice 
worsening pain, nausea, vomiting, changes in bowel or bladder 
function or for any other symptom which is concerning to you.
 
Followup Instructions:
___